US07932246B2
N-Hydroxy 4-{6-[(naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzamide—Example 88
N-(1-Isobutoxyethoxy) 4-{6-[(naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzamide (117 mg, 0.25 mmol) was stirred in DCM (10 ml) at r.t. and 4M HCl in dioxane (0.5 ml) was added. The reaction was allowed to stir for 30 min and then the solvent was removed in vacuo. The residue was purified by Gilson HPLC to give the title compound as a pink solid (13 mg, 14%). LCMS purity 98%, m/z 374 [M+H]+. 1H NMR (300 MHz, CD3OD) δ: 2.25 (2H, br s), 2.71 (1H, s), 3.32 (2H, m), 3.71 (2H, d, J=9.3 Hz), 4.54 (2H, s), 6.61 (2H, d, J=8.1 Hz), 7.62 (5H, m), 7.95 (4H, m), no peaks for NH/NHOH due to CD3OD.

reactant | N-(1-Isobutoxyethoxy) 4-{6-[(naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzamide | 0.25 mmol, 117 mg | C(C(C)C)OC(C)ONC(C1=CC=C(C=C1)N1CC2C(C2C1)NCC1=CC2=CC=CC=C2C=C1)=O | C29H35N3O3
reactant | HCl | 4M | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | N-Hydroxy 4-{6-[(naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzamide | 13 mg, 14% | ONC(C1=CC=C(C=C1)N1CC2C(C2C1)NCC1=CC2=CC=CC=C2C=C1)=O | C23H23N3O2
